US07935715B2
To a solution of 240 mg (0.93 mmol) of 2-methyl-2-(pyridine-3-sulfonyl)-propionic acid ethyl ester in THF/water (4/1, 10 mL) were added 76 mg (1.8 mmol) of lithium hydroxide monohydrate. The reaction was stirred at room temperature for 18 h. The reaction was further diluted with water (20 mL) and then washed with DCM (2×15 mL). The basic aqueous layer was cooled in an ice bath and acidified with 1M aqueous HCl solution to pH 2. The acidic aqueous layer was extracted with isopropanol/chloroform (1/1, 3×20 mL). The combined organic extracts were washed with brine, dried over Na2SO4 and filtered. Concentration of the filtrate under reduced pressure afforded 213 mg of 2-methyl-2-(pyridine-3-sulfonyl)-propionic acid.

reactant | 2-methyl-2-(pyridine-3-sulfonyl)-propionic acid ethyl ester | 0.93 mmol, 240 mg | C(C)OC(C(C)(S(=O)(=O)C=1C=NC=CC1)C)=O | C11H15NO4S
reactant | lithium hydroxide monohydrate | 1.8 mmol, 76 mg | O.[OH-].[Li+]
solvent | THF water | 10 mL | C1CCOC1.O
solvent | water | 20 mL | O | H2O
product | 2-methyl-2-(pyridine-3-sulfonyl)-propionic acid | 213 mg | CC(C(=O)O)(C)S(=O)(=O)C=1C=NC=CC1 | C9H11NO4S
